US05089513
A mixture of 2-naphthalenethiol (12.94 g), 3-bromopropiophenone (17.35 g), cuprous oxide (5.83 g), sodium hydroxide (3.24 g) and dimethylformamide (130 ml) was heated to reflux for 18 hours. The mixture was concentrated and the residue was partitioned between diethyl ether and water. The organic phase was dried (MgSO4) and evaporated. The residue was dissolved in a mixture of ethyl acetate and hexane and treated with charcoal. The solution was filtered and evaporated. The residue was recrystallised from a mixture of methanol and water to give 3-(naphth-2-ylthio)propiophenone (5.23 g, 22%), m.p. 90°-91° C.

reactant | 2-naphthalenethiol | 12.94 g | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | 3-bromopropiophenone | 17.35 g | BrCCC(=O)C1=CC=CC=C1 | C9H9BrO
reactant | sodium hydroxide | 3.24 g | [OH-].[Na+]
solvent | dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
product | 3-(naphth-2-ylthio)propiophenone | 5.23 g, 22% | C1=C(C=CC2=CC=CC=C12)SCCC(=O)C1=CC=CC=C1 | C19H16OS
